US05254558
A solution of 5-benzyloxycarbonylamino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinylacetaldehyde diethylacetal in tetrahydrofuran (7 mL) and 1N hydrochloric acid (5 mL) was heated at 60° C. for 18 h. The solution was cooled and neutralized with saturated aqueous sodium bicarbonate solution (pH 6). The solution was extracted with ethyl acetate and the organic extracts were dried and evaporated to give 5-benzyloxycarbonylamino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinylacetaldehyde as a white solid; NMR: 9.51 (s,1), 9.03 (s,1), 8.47 (s,1), 7.43 (m,9), 5.19 (s,2), 4.76 (s,2).

reactant | 5-benzyloxycarbonylamino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinylacetaldehyde diethylacetal | C(C)OC(CC1=CC=C(C=C1)F)(N1C=NC=C(C1=O)NC(=O)OCC1=CC=CC=C1)OCC | C24H26FN3O5
reactant | sodium bicarbonate | pH 6 | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1N, 5 mL | Cl | ClH
product | 5-benzyloxycarbonylamino-2-(4-fluorophenyl)-6-oxo-1,6-dihydro-1-pyrimidinylacetaldehyde | C(C1=CC=CC=C1)OC(=O)NC1=CN=CN(C1=O)C(CC1=CC=C(C=C1)F)=O | C20H16FN3O4
